US04916152
To a solution of (2S,4R)-2-[(Z)-5-carboxy-1-pentenyl]-1-(4-chlorophenylsulfonyl)-4-(4-chlorophenylsulfonylamino)pyrrolidine (274 mg) were added sodium hydride (60 mg) and iodomethane (0.1 ml) and the mixture was stirred at room temperature for 5 hours. The solution was diluted with ethyl acetate and washed successively with water and brine. The organic solution was dried over magnesium sulfate and evaporated in vacuo. The residue was chromatographed on silica gel with a mixture of n-hexane and ethyl acetate (3:1) as an eluent to give (2S,4R)-1-(4-chlorophenylsulfonyl)-4-[N-(4-chlorophenylsulfonyl)-N-methylamino]-2-[(Z)-5-methoxycarbonyl-1-pentenyl]pyrrolidine (220 mg) as an oil.

reactant | (2S,4R)-2-[(Z)-5-carboxy-1-pentenyl]-1-(4-chlorophenylsulfonyl)-4-(4-chlorophenylsulfonylamino)pyrrolidine | 274 mg | C(=O)(O)CCC\C=C/[C@H]1N(C[C@@H](C1)NS(=O)(=O)C1=CC=C(C=C1)Cl)S(=O)(=O)C1=CC=C(C=C1)Cl | C22H24Cl2N2O6S2
reactant | sodium hydride | 60 mg | [H-].[Na+]
reactant | iodomethane | 0.1 ml | IC | CH3I
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (2S,4R)-1-(4-chlorophenylsulfonyl)-4-[N-(4-chlorophenylsulfonyl)-N-methylamino]-2-[(Z)-5-methoxycarbonyl-1-pentenyl]pyrrolidine | 220 mg | ClC1=CC=C(C=C1)S(=O)(=O)N1[C@@H](C[C@H](C1)N(C)S(=O)(=O)C1=CC=C(C=C1)Cl)\C=C/CCCC(=O)OC | C24H28Cl2N2O6S2
